US08013186B2
Synthesis of N-(4-cyano-1,1-dioxohexahydro-1λ6-thiopyran-4-yl)-3-cyclopropylmethanesulfonyl-2(R)-[2,2-difluoro-2-(4-fluorophenoxy)-1(S)-(4-fluorophenyl)ethylamino]-propionamide
To a solution of N-(4-cyanotetrahydrothiopyran-4-yl)-3-cyclopropylmethanesulfonyl-2(R)-[2,2-difluoro-2-(4-fluorophenoxy)-1(S)-(4-fluorophenyl)ethylamino]propionamide (0.063 g, 0.1 mmol) in MeOH (10 ml) at 45° C., a solution of OXONE (0.3 mmol) in water (1 ml) was added. After stirring for 3 h at 45° C., the solvent was evaporated under vacuum and the residue was partitioned between DCM (15 ml) and water (15 ml). The organic phase was separated and the aqueous solution was extracted with DCM. The combined organic layers were washed with brine and dried over sodium sulfate. After removal of the solvent under vacuum, the crude was purified by preparative TLC, using ethyl acetate/hexanes (1/1) as mobile phase to give the title compound as a white solid (55%). 1HNMR (DMSO-d6): δ 8.82 (1H, s), 7.47 (2H, dd), 7.17 (6H, m), 4.32 (1H, q), 3.96 (1H, m), 3.40 (1H, m), 3.37 (4H, m), 3.00 (2H, m), 2.37 (2H), 1.15 (2H, m), 0.59 (3H, m), 0.30 (3H, m). LC/MS, M+1: 632.5; M−1: 630.6.

reactant | N-(4-cyanotetrahydrothiopyran-4-yl)-3-cyclopropylmethanesulfonyl-2(R)-[2,2-difluoro-2-(4-fluorophenoxy)-1(S)-(4-fluorophenyl)ethylamino]propionamide | 0.1 mmol, 0.063 g | C(#N)C1(CCSCC1)NC([C@H](CS(=O)(=O)CC1CC1)N[C@H](C(OC1=CC=C(C=C1)F)(F)F)C1=CC=C(C=C1)F)=O | C27H29F4N3O4S2
reactant | OXONE | 0.3 mmol | OOS(=O)[O-].[K+]
solvent | MeOH | 10 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | N-(4-cyano-1,1-dioxohexahydro-1λ6-thiopyran-4-yl)-3-cyclopropylmethanesulfonyl-2(R)-[2,2-difluoro-2-(4-fluorophenoxy)-1(S)-(4-fluorophenyl)ethylamino]-propionamide | 55% | C(#N)C1(CCS(CC1)(=O)=O)NC([C@H](CS(=O)(=O)CC1CC1)N[C@H](C(OC1=CC=C(C=C1)F)(F)F)C1=CC=C(C=C1)F)=O | C27H29F4N3O6S2
